resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.990081
R2 0 n2 1.012735
R3 0 n4 0.994792
R4 n1 n3 0.981868
R5 n1 n5 1.017401
R6 n2 n3 1.000684
R7 n2 n6 0.991619
R8 n3 n7 0.988931
R9 n4 n5 0.988036
R10 n4 n6 6.569963
R11 n5 n7 1.004422
R12 n6 n7 0.980021
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
